US08614201B2
(2S)-1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [4-(4-trifluoromethyl-phenyl)-pyrimidin-2-ylmethyl]-amide
A mixture of C-[4-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-methylamine (92 mg, 0.4 mmol), (S)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid (99 mg, 0.4 mmol), N-(3-dimethylamniopropyl)-N′-ethylcarbodiimide hydrochloride (139 mg, 0.72 mmol), 1-hydroxybenzotriazole (98 mg, 0.73 mmol), Et3N (0.15 mL, 1.10 mmol), and DMF (2 mL) was stirred at rt for 12 hours. After 12 h, MeOH (0.5 mL) was added to the reaction mixture and resulting solution was purified by preparative reverse-phase HPLC to afford (35 mg, 19%) of a white solid. MS (ESI): mass calcd. for C23H20F4N4O3S, 508.1; m/z found, 509.5 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.86 (d, J=5.3, 1H), 8.38 (d, J=8.1, 2H), 8.37-8.33 (m, 1H), 7.99-7.92 (m, 2H), 7.82 (d, J=8.2, 2H), 7.70 (d, J=5.3, 1H), 7.30-7.25 (m, 1H), 4.93-4.76 (m, 2H), 4.31-4.22 (m, 1H), 3.69 (td, J=7.3, 3.7, 1H), 3.25 (td, J=9.8, 6.7, 1H), 2.36-2.29 (m, 1H), 1.97-1.59 (m, 3H).

reactant | C-[4-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-methylamine | 0.4 mmol, 92 mg | FC(C1=CC=C(C=C1)C1=NC(=NC=C1)CN)(F)F | C12H10F3N3
reactant | (S)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid | 0.4 mmol, 99 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O | C11H12FNO4S
reactant | 1-hydroxybenzotriazole | 0.73 mmol, 98 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Et3N | 1.10 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S)-1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [4-(4-trifluoromethyl-phenyl)-pyrimidin-2-ylmethyl]-amide | 35 mg, 19% | FC(C1=CC=C(C=C1)C1=NC(=NC=C1)CNC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F)(F)F | C23H20F4N4O3S
